US08231693B2
In a 7.5 ml batch reactor, 0.06 mmol 5-(ethoxymethyl)furfural (EMF) in 1 mL ethanol and 5 bars of hydrogen was reacted with 3 mol % of a Pt/C catalyst for 4 days at room temperature. The starting material was completely converted in 100% selectivity to 5-(ethoxymethyl)-2-hydroxymethyl)furan. Subsequently, the mixture was heated to 75° C. for 1 day without hydrogen. The 5-(ethoxymethyl)-2-hydroxymethyl)furan was fully converted and 2,5-bis(ethoxymethyl)furan was obtained in 80% yield. 20% Side products are ring opened levulinate derivatives. The experiment was successfully repeated on a 20 gram scale.

reactant | 5-(ethoxymethyl)furfural | 0.06 mmol | C(C)OCC1=CC=C(C=O)O1 | C8H10O3
reactant | hydrogen | [H][H] | H2
reactant | furan | O1C=CC=C1 | C4H4O
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | Pt/C | [Pt] | Pt
product | 2,5-bis(ethoxymethyl)furan | 80% yield | C(C)OCC=1OC(=CC1)COCC | C10H16O3
